US04803210
D. Preparation of cyclohepta[1,2-c]pyridin-5-one (Structure 3: n=2)
Dimethylsulfoxide (9.37 g, 0.12 mole) was added dropwise to a stirred solution of oxalyl chloride (7.61 g, 0.060 mole) in methylene chloride (120 ml) maintained at betweeen -70° C. to -60° C. The mixture was stirred for 10 minutes at -70° C., then a solution of 5-hydroxycyclohepta[ 1,2-c]pyridine (10.00 g, 0.061 mole) and additional dimethylsulfoxide (12 ml) in methylene chloride (~115 ml) was added rapidly (~10 minutes) while maintaining the temperature of the reaction mixture at -70° C. After stirring for an additional 30 minutes at -75° C. to 60° C., a solid precipitate was present. Triethylamine (37.026 g, 0.366 mole) was added rapidly at -70° C. and the resulting yellow reaction mixture was stirred at -70° C. for ~10 minutes, then allowed to warm to room temperature. After about 48 hours at room temperature the reaction mixture was quenched with water (600 ml), the organic phase separated, then extracted with water (2X, 500 ml), aqueous sodium bicarbonate (5%, 2X, 500 ml), and brine. After drying, the organic layer was filtered through celite and concentrated by solvent evaporation to give 9.00 g of a brown oil. Distillation (90°-120° C., 0.03 mm) gave the desired product as a yellow liquid (07.41 g, 75%). The analytical sample was prepared by chromatography of ~0.1 g on a 20×20 cm preparative tlc plate eluting with a mixture of 35% ethanol - 65% methylene chloride.

reactant | Dimethylsulfoxide | 0.12 mole, 9.37 g | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 0.060 mole, 7.61 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 5-hydroxycyclohepta[ 1,2-c]pyridine | 0.061 mole, 10.00 g | OC=1C=CC=CC2=CNC=CC21 | C10H9NO
reactant | dimethylsulfoxide | 12 ml | CS(=O)C | C2H6OS
reactant | Triethylamine | 0.366 mole, 37.026 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 120 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | ~115 ml | C(Cl)Cl | CH2Cl2
product | cyclohepta[1,2-c]pyridin-5-one | 9.00 g | C1=NC=CC2=C1C=CC=CC2=O | C10H7NO
